US04753965
PREPARATION OF 4-DIMETHYLAMINO-2',3',4'-TRIMETHOXYCHALCONE
Sodium hydroxide (0.5 ml of 2N) was added to a mixture of trimethoxyacetophenone (2.1 g, 0.01 mole), dimethylaminobenzaldehyde (1.49 g, 0.01 mole), and ethanol (50 ml). The reaction mixture was allowed to stir at room temperature until a thin layer chromatography (50% ethyl acetate in hexane) indicated that the reaction was complete. After cooling to about 0° C., the mixture was filtered, the solid residue washed with water, then with methanol. Recrystallization from methanol gave the title compound, m.p. 145°-146° C. Elemental analysis for C20H23NO4 : Calcd: C, 70.36; H, 6.79; N, 4.10%. Found: C, 70.21; H, 6.98; N, 3.83%. Also prepared by substantially the same procedure as in example 2 were:

reactant | Sodium hydroxide | 2N, 0.5 ml | [OH-].[Na+]
reactant | trimethoxyacetophenone | 0.01 mole, 2.1 g | COC(C(=O)C1=CC=CC=C1)(OC)OC | C11H14O4
reactant | dimethylaminobenzaldehyde | 0.01 mole, 1.49 g | CN(C)C1=C(C=O)C=CC=C1 | C9H11NO
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 4-DIMETHYLAMINO-2',3',4'-TRIMETHOXYCHALCONE | CN(C1=CC=C(C=C1)C=CC(=O)C1=C(C(=C(C=C1)OC)OC)OC)C | C20H23NO4
